US07923450B2
(4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-(4-[1,2,4]triazol-1-yl-phenyl)-amine
A suspension of 4-(1,2,4-triazol-1-yl)phenylthiourea (109.6 mg, 0.5 mmol) and of 2-bromo-6-phenyl-cyclohexanone (253.1 mg, 1.00 mmol) in ethanol (4 mL) was heated for two days to reflux under an atmosphere of nitrogen. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was treated with dichloromethane, diethyl ether and heptane. The product precipitated as a solid and was filtered off to yield the title compound (120 mg, 64%) as a pale-brown solid. MS ISP (m/e): 374.3 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.4 (s, 1H), 9.38 (s, 1H), 8.29 (s, 1H), 8.02 (d, 2H), 7.56 (d, 2H), 7.30 (t, 2H), 7.10-7.19 (m, 5H), 4.00 (m, 1H), 2.72 (m, 2H), 2.14 (m, 1.70-1.89 (m, 3H).

reactant | 4-(1,2,4-triazol-1-yl)phenylthiourea | 0.5 mmol, 109.6 mg | N1(N=CN=C1)C1=CC=C(C=C1)NC(=S)N | C9H9N5S
reactant | 2-bromo-6-phenyl-cyclohexanone | 1.00 mmol, 253.1 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-(4-[1,2,4]triazol-1-yl-phenyl)-amine | 120 mg, 64% | C1(=CC=CC=C1)C1CCCC2=C1N=C(S2)NC2=CC=C(C=C2)N2N=CN=C2 | C21H19N5S
